US04540818
For example, 3,3'-dinitro-4,4'-dichlorobenzophenone can be prepared in a yield of 95 to 98% by nitrating 4,4'-dichlorobenzophenone [E. R. Kofanov et al., J. Org. Chem. USSR, 15, 98-100 (1979)]. 5,3'-Dinitro-2,4'-dichlorobenzophenone can be prepared in a high yield by nitrating 2,4'-dichlorobenzophenone [E. H. Faith et al., J. Am. Chem. Soc., 77, 543 (1955)]. 3,3'-Dinitro-4-chlorobenzophenone can be prepared in a high yield by nitrating 4-chlorobenzophenone [G. S. Mironov et al., J. Org. Chem. USSR, 8, 1538 (1972)]. 3,4'-Dinitro-4-chlorobenzophenone can be prepared by nitrating 4-halogeno-4'-nitrobenzophenone obtained by the condensation reaction between p-nitrobenzoyl chloride and chlorobenzene [P. T. Montagne et al., Ber., 49, 2267-2270 (1916); G. S. Mironov et al., J. Org. Chem. USSR, 8, 1538-1543 (1972)]. 3,3'-Dinitro-6,4'-dichlorobenzophenone can be prepared in a high yield by nitrating 2,4'-dichlorobenzophenone obtained by the condensation reaction between 2-chlorobenzoyl chloride and chlorobenzene [H. F. Faith et al., J. Am. Chem. Soc., 77, 543 (1955)].

reactant | 3,3'-Dinitro-6,4'-dichlorobenzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=C(C=C2)Cl)[N+](=O)[O-])C(=CC1)Cl | C13H6Cl2N2O5
reactant | 2,4'-dichlorobenzophenone | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1 | C13H8Cl2O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
